US08580762B2
Step 6: Synthesis of 7-((3aS,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of 7-((3aS,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidine and 2,4-dimethoxybenzylamine (1.2 mL, 7.8 mmol) in 1-butanol (18.6 mL) was treated with N,N-diisopropylethylamine (1.4 mL, 7.8 mmol) and heated at 80° C. for 22 h; HPLC/LC MS indicated ˜90% conversion to the desired product. The volatiles were removed and the yellow-brown paste was taken up in CH2Cl2 (90 mL) and washed with water (2×30 mL) and brine (1×45 mL). The separated organic layer was dried (Na2SO4) and concentrated in vacuo to afford an orange oil. Purification by column chromatography (2×22 cm silica; 0-50% EtOAc/Hex) afforded the title compound (2.23 g, 72%) as a pale yellow glass/foam: MS (ESI+) for C24H29N7O4 m/z 480.5 (M+H)+; MS (ESI−) for C24H29N7O4 m/z 524.3 (M+HCO2)−; HPLC purity >95% (ret. time, 3.551 min).

reactant | 7-((3aS,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | N(=[N+]=[N-])C[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1Cl | C15H17ClN6O2
reactant | 2,4-dimethoxybenzylamine | 7.8 mmol, 1.2 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | N,N-diisopropylethylamine | 7.8 mmol, 1.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-butanol | 18.6 mL | C(CCC)O | C4H10O
product | 7-((3aS,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | N(=[N+]=[N-])C[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C24H29N7O4
